US08252799B2
Step 2: rac-(3aS,4S,5R,7S,7aR)-5-hydroxy-5-methylhexahydro-1H-4,7-methanoisoindole-1,3-dione
To a −78° C. solution of rac-(3aS,4S,7S,7aR)-tetrahydro-1H-4,7-methanoisoindole-1,3,5(4H)-trione (1.08 g, 6.03 mmol) (Kossakowski, Jerzy; Zawadowski, Teodor; Balicka, Eliza., Acta Poloniae Pharmaceutica (1997), 54(6), 479-481) in 50 ml of anhydrous THF was added methylmagnesium bromide (5.02 ml of a 3 M solution in THF, 15.07 mmol). After 2 hr, an additional 3 mL of methylmagnesium bromide solution was added. After another 2 hr, an additional 2 mL of methylmagnesium bromide solution was added. After 6 hr total at −78° C., the cooling bath was removed and the reaction allowed to warm to room temperature. The reaction was quenched with acetic acid (1.725 ml, 30.1 mmol) (Carefully). 200 uL of water was added, and the mixture was diluted with CH2Cl2 and 2 mL MeOH. The mixture was dried over Na2SO4, filtered, and concentrated to give a white foam. The foam was dissolved in 5% MeOH/CH2Cl2 and filtered through a plug of silica to give the titled compound as an off-white solid.

reactant | rac-(3aS,4S,7S,7aR)-tetrahydro-1H-4,7-methanoisoindole-1,3,5(4H)-trione | 6.03 mmol, 1.08 g | C1(NC(C2C3C(CC(C12)C3)=O)=O)=O | C9H9NO3
reactant | methylmagnesium bromide | C[Mg]Br
reactant | methylmagnesium bromide | 3 mL | C[Mg]Br
reactant | methylmagnesium bromide | 2 mL | C[Mg]Br
reactant | acetic acid | 30.1 mmol, 1.725 ml | C(C)(=O)O | C2H4O2
reactant | water | 200 uL | O | H2O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH | 2 mL | CO | CH4O
solvent | MeOH CH2Cl2 | CO.C(Cl)Cl
product | rac-(3aS,4S,5R,7S,7aR)-5-hydroxy-5-methylhexahydro-1H-4,7-methanoisoindole-1,3-dione | OC1(C2C3C(NC(C3C(C1)C2)=O)=O)C | C10H13NO3
